US04803211
A mixture of 380 mg of ethyl p-[(5-[(4-acetyl-3-hydroxy-2-propylbenzyl )thio]-1,3,4-thiadiazol-2-yl)thiomethyl]benzoate, 2 ml of methanol, 2 ml of tetrahydrofuran and 2 ml of a 1N aqueous sodium hydroxide solution was stirred at 60 °to 70° C. for 1 hour. After cooling, 20 ml of water was added to the reaction mixture. The system was washed with ethyl acetate, made acidic with dil. hydrochloric acid and then, extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was recrystallized from isopropyl alcohol-water to give 100 mg of p-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thiomethyl]benzoic acid. The physical property of the thus obtained compound was identical with that of the compound obtained in Example 37.

reactant | ethyl p-[(5-[(4-acetyl-3-hydroxy-2-propylbenzyl )thio]-1,3,4-thiadiazol-2-yl)thiomethyl]benzoate | 380 mg | C(C)(=O)C1=C(C(=C(CSC2=NN=C(S2)SCC2=CC=C(C(=O)OCC)C=C2)C=C1)CCC)O | C24H26N2O4S3
reactant | methanol | 2 ml | CO | CH4O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | p-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thiomethyl]benzoic acid | 100 mg | C(C)(=O)C1=C(C(=C(CSC2=NN=C(S2)SCC2=CC=C(C(=O)O)C=C2)C=C1)CCC)O | C22H22N2O4S3
